US08304419B2
Nitric acid (70 w/w %, 5 mL) was added to ethyl 3,5-dimethyl-1H-pyrrole-2-carboxylate (1.0 g, 6.0 mmol) cooled to 0° C. The reaction mixture was stirred and allowed to warm to RT over 1 h. The reaction mixture was poured into an ice bath with sat. sodium bicarbonate (25 mL) and extracted with EtOAc (3×50 mL), the organic layers combined, dried over sodium sulfate, filtered and evaporated. Purification by column chromatography afforded ethyl 3,5-dimethyl-4-nitro-1H-pyrrole-2-carboxylate (0.185 g, 14%) as a white solid. 1H NMR (400 MHz, DMSO-d5): δ ppm 12.49 (br. s., 1H) 4.26 (q, 2H) 2.51 (s, 3H) 2.50 (s, 3H) 1.28 (t, 3H). MS: m/z 213.3 (M+1).

reactant | Nitric acid | 5 mL | [N+](=O)(O)[O-] | HNO3
reactant | ethyl 3,5-dimethyl-1H-pyrrole-2-carboxylate | 6.0 mmol, 1.0 g | CC1=C(NC(=C1)C)C(=O)OCC | C9H13NO2
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
product | ethyl 3,5-dimethyl-4-nitro-1H-pyrrole-2-carboxylate | 0.185 g, 14% | CC1=C(NC(=C1[N+](=O)[O-])C)C(=O)OCC | C9H12N2O4
